US07196090B2
1-Cyclopentyl-7-(4-diethylamino-butylamino)-3-(3-ethoxy-2,6-difluoro-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one
Using Procedure K, described above, 0.74 g (1.69 mmol) of 3-(3-ethoxy-2,6-difluoro-phenyl)-1-(1-ethyl-propyl)-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one and 4-(diethylamino)butylamine in 20 mL of dioxane were reacted. Chromatography with 9:1:0.5 ethyl acetate/ethanol/ triethylamine gave 0.75 g (86%) of the title compound as a solid: mp 129° C.–130° C. 130° C. MS (APCI) (m+1)/z 5127.47. Analysis calculated for C27H38N6F2O2: C, 62.77; H, 7.41; N, 16.27.Found: C, 62.79; H, 7.35; N, 16.10.

reactant | 3-(3-ethoxy-2,6-difluoro-phenyl)-1-(1-ethyl-propyl)-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 1.69 mmol, 0.74 g | C(C)OC=1C(=C(C(=CC1)F)N1C(N(C2=NC(=NC=C2C1)S(=O)C)C(CC)CC)=O)F | C20H24F2N4O3S
reactant | 4-(diethylamino)butylamine | C(C)N(CCCCN)CC | C8H20N2
reactant | ethyl acetate ethanol triethylamine | C(C)(=O)OCC.C(C)O.C(C)N(CC)CC
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 1-Cyclopentyl-7-(4-diethylamino-butylamino)-3-(3-ethoxy-2,6-difluoro-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.75 g, 86% | C1(CCCC1)N1C(N(CC=2C1=NC(=NC2)NCCCCN(CC)CC)C2=C(C(=CC=C2F)OCC)F)=O | C27H38F2N6O2
